Conversion of Pspice dff

* ----------------------------------------------------------- 74LV374A ------
*  Octal Edge-Triggered D-Type Flip-Flops With 3-State Outputs
*
*  TI PDF File
*  bss    2/28/03
*
.SUBCKT 74LV374A OEBAR CLK 1D 2D 3D 4D 5D 6D 7D 8D 1Q 2Q 3Q 4Q 5Q 6Q 7Q 8Q
+     optional: DPWR_3V=$G_DPWR_3V DGND_3V=$G_DGND_3V
+     params: MNTYMXDLY=0 IO_LEVEL=0

U1 dff(8) DPWR_3V DGND_3V
+     $D_HI $D_HI CLK
+     1D 2D 3D 4D 5D 6D 7D 8D
+     $D_NC $D_NC $D_NC $D_NC $D_NC $D_NC $D_NC $D_NC
+     1QB 2QB 3QB 4QB 5QB 6QB 7QB 8QB
+     DLY1_LV374 IO_LV-A MNTYMXDLY={MNTYMXDLY} IO_LEVEL={IO_LEVEL}

U2 inv DPWR_3V DGND_3V
+     OEBAR OE
+     D0_GATE IO_LV-A MNTYMXDLY={MNTYMXDLY} IO_LEVEL={IO_LEVEL}

U3 inv3a(8) DPWR_3V DGND_3V
+     1QB 2QB 3QB 4QB 5QB 6QB 7QB 8QB
+     OE
+     1Q 2Q 3Q 4Q 5Q 6Q 7Q 8Q
+     DLY2_LV374 IO_LV-A MNTYMXDLY={MNTYMXDLY} IO_LEVEL={IO_LEVEL}

.model DLY1_LV374 ueff(tpclkqhlTY=8.3ns tpclkqhlMX=16.2ns tpclkqlhTY=8.3ns tpclkqlhMX=16.2ns
+                      twclklMN=5ns twclkhMN=5ns tsudclkMN=4.5ns thdclkMN=2ns)

.model DLY2_LV374 utgate (tplzTY=5.9ns tplzMX=14ns tphzTY=5.9ns tphzMX=14ns
+                         tpzlTY=7.7ns tpzlMX=14.5ns tpzhTY=7.7ns tpzhMX=14.5ns)
                                 
.ENDS 74LV374A

* ----------------------------------------------------------- 74LV574A ------
*  Octal Edge-Triggered D-Type Flip-Flops With 3-State Outputs
*
*  TI PDF File
*  bss    2/28/03
*
.SUBCKT 74LV574A OEBAR CLK 1D 2D 3D 4D 5D 6D 7D 8D 
+     1Q 2Q 3Q 4Q 5Q 6Q 7Q 8Q
+     optional: DPWR_3V=$G_DPWR_3V DGND_3V=$G_DGND_3V
+     params: MNTYMXDLY=0 IO_LEVEL=0

U1 inv DPWR_3V DGND_3V
+     OEBAR OE
+     D0_GATE IO_LV-A MNTYMXDLY={MNTYMXDLY} IO_LEVEL={IO_LEVEL}

U2 dff(8) DPWR_3V DGND_3V
+     $D_HI $D_HI CLK
+     1D 2D 3D 4D 5D 6D 7D 8D
+     Q1 Q2 Q3 Q4 Q5 Q6 Q7 Q8
+     $D_NC $D_NC $D_NC $D_NC $D_NC $D_NC $D_NC $D_NC
+     DLY_LV574 IO_LV-A MNTYMXDLY={MNTYMXDLY} IO_LEVEL={IO_LEVEL}

U3 buf3a(8) DPWR_3V DGND_3V
+     Q1 Q2 Q3 Q4 Q5 Q6 Q7 Q8
+     OE
+     1Q 2Q 3Q 4Q 5Q 6Q 7Q 8Q 
+     DLY_LV574Z IO_LV-A MNTYMXDLY={MNTYMXDLY} IO_LEVEL={IO_LEVEL}

.model DLY_LV574 ueff(tpclkqhlTY=8.1ns tpclkqhlMX=16.7ns tpclkqlhTY=8.1ns tpclkqlhMX=16.7ns
+                      twclklMN=5ns twclkhMN=5ns tsudclkMN=3.5ns thdclkMN=1.5ns)

.model DLY_LV574Z utgate (tpzhTY=7.7ns tpzhMX=16.3ns tpzlTY=7.7ns tpzlMX=16.3ns
+                         tphzTY=6.1ns tphzMX=15ns tplzTY=6.1ns tplzMX=15ns)

.ENDS 74LV574A


x1 oeb clk 1in 2in 3in 4in 5in 6in 7in 8in o1 o2 o3 o4 o5 o6 o7 o8 74lv374a
x2 oeb clk 1in 2in 3in 4in 5in 6in 7in 8in q1 q2 q3 q4 q5 q6 q7 q8 74lv574a

a1 [oeb clk 1in 2in 3in 4in 5in 6in 7in 8in] input_vec1
.model input_vec1 d_source(input_file = "ex5.stim")

x3 oeb oeb 1in 2in 3in 4in 1006 1007 1008 1009 74als242b

* ----------------------------------------------------------- 74ALS242B ------
*  Quad Bus Transceivers With 3-State Outputs
*
*  The ALS/AS Logic Data Book, 1986, TI Pages 2-271 to 2-276
*  jds    5/25/94
*
.SUBCKT 74ALS242B GABBAR GBA A1 A2 A3 A4 B1 B2 B3 B4 
+     optional:  DPWR=$G_DPWR DGND=$G_DGND
+     params:  MNTYMXDLY=0 IO_LEVEL=0

uf0 inv DPWR DGND
+     GABBAR GAB
+     D0_GATE IO_ALS00 MNTYMXDLY={MNTYMXDLY} IO_LEVEL={IO_LEVEL}

uf1 inv3a(4) DPWR DGND
+     A1 A2 A3 A4 
+     GAB
+     B1 B2 B3 B4 
+     DLY_MOD IO_ALS00 MNTYMXDLY={MNTYMXDLY} IO_LEVEL={IO_LEVEL}

uf2 inv3a(4) DPWR DGND
+     B1 B2 B3 B4 
+     GBA
+     A1 A2 A3 A4
+     DLY_MOD IO_ALS00 MNTYMXDLY={MNTYMXDLY} IO_LEVEL={IO_LEVEL}

.model DLY_MOD utgate (TPLHMN=-1 TPLHTY=5ns TPLHMX=-1
+                                             TPHLMN=-1 TPHLTY=5ns TPHLMX=-1
+                                             TPZLMN=-1 TPZLTY=11ns  TPZLMX=-1
+                                             TPZHMN=-1 TPZHTY=10ns  TPZHMX=-1
+                                             TPLZMN=-1  TPLZTY=5ns TPLZMX=-1
+                                             TPHZMN=-1 TPHZTY=6ns TPHZMX=-1)

.ENDS 74ALS242B

.tran 0.1ns 150ns 0
.save all

.control
listing r expand
run
*display
*edisplay
eprint o1 o2 o3 o4 o5 o6 o7 o8
eprint q1 q2 q3 q4 q5 q6 q7 q8
eprint 1006 1007 1008 1009
*set xbrushwidth=2
plot  o1 o2 o3 o4 o5 o6 o7 o8 q1 q2 q3 q4 q5 q6 q7 q8 digitop
*quit
.endc
.end
